US04296031
19.7 g of N-carbobenzoxy-DL-norleucine are dissolved in 200 ml of absolute tetrahydrofuran, the solution is treated dropwise while cooling with ice with 10 g of thionyl chloride and then stirred for 1 hour. To this solution there is rapidly added dropwise a solution of 17 g (0.065 M) of 2-amino-5-nitro-2'-fluorobenzophenone in 130 ml of absolute tetrahydrofuran and the mixture is then stirred at room temperature for 60 hours. The solution is concentrated and the residue is treated with ice and 10% sodium bicarbonate solution and extracted with methylene chloride. The organic solution is dried with sodium sulphate, filtered and concentrated. The residue is purified on a 450 g silica gel column using methylene chloride as the eluting agent and crystallised from ethanol. There is obtained benzyl-rac-{1-[[2-(o-fluorobenzoyl)-4-nitrophenyl]carbamoyl]butyl}carbamate which melts at 148°-150° C.

reactant | N-carbobenzoxy-DL-norleucine | 19.7 g | C(=O)(OCC1=CC=CC=C1)NC(CCCC)C(=O)O | C14H19NO4
reactant | thionyl chloride | 10 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-5-nitro-2'-fluorobenzophenone | 0.065 M, 17 g | NC1=C(C(=O)C2=C(C=CC=C2)F)C=C(C=C1)[N+](=O)[O-] | C13H9FN2O3
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | benzyl-rac-{1-[[2-(o-fluorobenzoyl)-4-nitrophenyl]carbamoyl]butyl}carbamate | C(C1=CC=CC=C1)OC(NC(CCC)C(NC1=C(C=C(C=C1)[N+](=O)[O-])C(C1=C(C=CC=C1)F)=O)=O)=O | C26H24FN3O6
